US04505923
6-(Allyloxy)benzothiazole-2-sulfonamide
A solution of sodium hydroxide (8.0 gm, 0.2 ml) in methanol (170 mL) was added dropwise to a solution of 6-hydroxybenzothiazole-2-sulfonamide (23.0 gm, 0.1 mol) and allyl bromide (10.0 mL, 0.12 mol) in dry dimethylformamide (100 mL). This mixture was stirred at room temperature for 16-20 hours and then poured into hydrochloric acid-ice water. The precipitate was collected by filtration, dissolved in ethyl acetate, washed with water, dried (Na2SO4) and evaporated. This residue was triturated with methylene chloride and the crystalline product was collected. (wt. 9.9 gm), m.p. 184°-187° C. A sample was recrystallized from 1,2-dichloroethane, m.p. 193°-195° C.

reactant | sodium hydroxide | 0.2 ml, 8.0 gm | [OH-].[Na+]
reactant | 6-hydroxybenzothiazole-2-sulfonamide | 0.1 mol, 23.0 gm | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | allyl bromide | 0.12 mol, 10.0 mL | C(C=C)Br | C3H5Br
solvent | methanol | 170 mL | CO | CH4O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-(Allyloxy)benzothiazole-2-sulfonamide | C(C=C)OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C10H10N2O3S2
